US07645771B2
Preparation of N-{1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentyl}-2,2-dimethylpropanamide
N-{1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentyl}-2,2-dimethylpropanamide was obtained from treating 1,1-dimethylethyl {1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentyl}carbamate (0.627 g, 0.95 mmol) with HCl as outlined in the procedure for Example 890 to form 1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentanamine (0.528 g, 99%). 1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentanamine (0.050 g, 0.09 mmol), 2,2-Dimethyl-propionyl chloride (0.011 g, 0.09 mmol) and DIEA (0.034 g, 0.534 mmol) were reacted following the procedure outlined in Example 890 to give the title compound, N-{1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentyl}-2,2-dimethylpropanamide (0.031 g, 54%) as an oil. ES-LCMS m/z 642 (M+1).

reactant | 1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentanamine | 0.09 mmol, 0.050 g | FC=1C=C(C=CC1)C1(CCN(CC1)C(=O)C1(CCCC1)N)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C34H44FN5O
reactant | 2,2-Dimethyl-propionyl chloride | 0.09 mmol, 0.011 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | DIEA | 0.534 mmol, 0.034 g | CCN(C(C)C)C(C)C | C8H19N
product | N-{1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentyl}-2,2-dimethylpropanamide | 0.031 g, 54% | FC=1C=C(C=CC1)C1(CCN(CC1)C(=O)C1(CCCC1)NC(C(C)(C)C)=O)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C39H52FN5O2
